US07521461B2
Methyl 2-{[4-(2-{4-[(methylsulfonyl)oxy]phenoxy}ethyl)phenoxy]methyl}benzoate (0.18 g, 0.38 mmol) was dissolved in a mixture of tetrahydrofuran and water 7:1 (5 ml). The reaction was performed in a single node microwave oven (150° C. in 7 minutes). The mixture was diluted with HCl (2 ml, 1 M) and the organic phase was isolated. The crude was purified by preparative HPLC (started with acetonitrile/buffer 60/40 and then the acetonitrile concentration was increased to 100%, the buffer was a mixture of acetonitrile/water 10/90 and ammonium acetate (0.1 M, column KR-100-7-C8, 50 mm×250 mm, flow 40 ml/min). The product containing fractions were pooled and the acetonitrile was removed by evaporation. EtOAc (10 ml) was added and the organic phase was washed with two portions of brine and dried (MgSO4). Removing the solvent by evaporation gave 13 mg of 2-{[4-(2-{4-[(methylsulfonyl)oxy]phenoxy}ethyl)phenoxy]-methyl}benzoic acid (yield 7.7%).

reactant | Methyl 2-{[4-(2-{4-[(methylsulfonyl)oxy]phenoxy}ethyl)phenoxy]methyl}benzoate | 0.38 mmol, 0.18 g | CS(=O)(=O)OC1=CC=C(OCCC2=CC=C(OCC3=C(C(=O)OC)C=CC=C3)C=C2)C=C1 | C24H24O7S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | 5 ml | O | H2O
solvent | HCl | 1 M, 2 ml | Cl | ClH
product | 2-{[4-(2-{4-[(methylsulfonyl)oxy]phenoxy}ethyl)phenoxy]-methyl}benzoic acid | 13 mg, yield 7.7% | CS(=O)(=O)OC1=CC=C(OCCC2=CC=C(OCC3=C(C(=O)O)C=CC=C3)C=C2)C=C1 | C23H22O7S
